US05110951
U.S. Pat. No. 4,179,445 discloses another improved method in which 5,6-isopropylidene-L-ascorbic acid, a phosphorus oxyhalide of general formula POX3 (wherein X is a halogen atom) and a specific solvent (a mixed solvent composed of water and a tertiary amine) are mixed with each other and the mixture is kept at pH 13 or higher to react. More particularly, 5,6-isopropylidene-L-ascorbic acid is dissolved in a mixed solvent composed of water and pyridine, and phosphorus oxychloride is added dropwise to the mixture at -10° C. to +10° C. In this case, an aqueous solution of 10M sodium hydroxide is added dropwise to the mixture while stirring in order to carry out the reaction in a higher pH range (e.g., about pH 13). After completion of the reaction, the reaction mixture is cooled to room temperature, treated with a strongly acidic cation exchange resin (H+ -form) for desalting and purification, followed by neutralization with magnesium oxide and removal of the solvent by distillation and dropwise addition of ethanol to the residue to give white powder of magnesium salt of L-ascorbic acid 2-phosphate, which is collected by filtration (yield: 86%).

reactant | 5,6-isopropylidene-L-ascorbic acid | CC1(OC[C@H](O1)[C@@H]2C(=C(C(=O)O2)O)O)C | C9H12O6
reactant | water | O | H2O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 10M | [OH-].[Na+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | L-ascorbic acid 2-phosphate | yield: 86% | P(=O)(O)(O)OC=1C(=O)O[C@@H](C1O)[C@@H](O)CO | C6H9O9P
